US09029538B2
1-Ethyl-3-(4-fluoro-phenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid [3-cyclopropyl-4-(6,7-dimethoxy-quinolin-4-yloxy)-phenyl]-amide was synthesized from 3-cyclopropyl-4-(6,7-dimethoxyquinolin-4-yloxy)phenylamine (0.06 g, 0.20 mmol) and 3-(4-fluoro-phenyl)-1-ethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (0.06 g, 0.21 mmol) in an analogous manner to Example 1. mp 183-185° C.; LCMS m/z=597 (M+1). 1H NMR (DMSO-d6) δ: 10.84 (s, 1H), 8.86 (s, 1H), 8.44 (d, 1H, J=5.2 Hz), 7.71 (d d, 1H, J=2.53 Hz, J=8.73 Hz), 7.58 (s 1H), 7.31-7.46 (m, 5H), 7.27 (d, 1H, J=2.53 Hz), 7.17 (d, 1H, J=8.73 Hz), 6.33 (d, 1H, J=5.2 Hz), 4.00 (q, 2H, J=7.04 Hz), 3.94 (s, 6H), 1.77-1.87 (m, 1H), 1.29 (t, 3H, J=7.04 Hz), 0.72-0.82 (m, 2H), 0.62-0.71 (m, 2H).

reactant | 3-cyclopropyl-4-(6,7-dimethoxyquinolin-4-yloxy)phenylamine | 0.20 mmol, 0.06 g | C1(CC1)C=1C=C(C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)OC)N | C20H20N2O3
reactant | 3-(4-fluoro-phenyl)-1-ethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid | 0.21 mmol, 0.06 g | FC1=CC=C(C=C1)N1C(N(C=C(C1=O)C(=O)O)CC)=O | C13H11FN2O4
product | 1-Ethyl-3-(4-fluoro-phenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid [3-cyclopropyl-4-(6,7-dimethoxy-quinolin-4-yloxy)-phenyl]-amide | C1(CC1)C=1C=C(C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)OC)NC(=O)C=1C(N(C(N(C1)CC)=O)C1=CC=C(C=C1)F)=O | C33H29FN4O6
